data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-Cl_1-OC_2-C(F)(F)F_3-[N+](=O)[O-]_4-N(C(C)C)C(C)C_5-Cl_6-Cl_7-C(C)(C)C_8-S(=O)(=O)C_9-Cl","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(OC)c(C(F)(F)F)c([N+](=O)[O-])c(N(C(C)C)C(C)C)c(Cl)c1O","c1(Cl)c(C(C)(C)C)c(S(=O)(=O)C)c(Cl)c(Cl)c1I"],"products_smiles": ["c1(OC)c(C(F)(F)F)c([N+](=O)[O-])c(N(C(C)C)C(C)C)c(Cl)c1Oc2c(Cl)c(C(C)(C)C)c(S(=O)(=O)C)c(Cl)c2(Cl)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(OC)c(C(F)(F)F)c([N+](=O)[O-])c(N(C(C)C)C(C)C)c(Cl)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(Cl)c(C(C)(C)C)c(S(=O)(=O)C)c(Cl)c(Cl)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(Cl)c(C(C)(C)C)c(S(=O)(=O)C)c(Cl)c(Cl)c2[Cu](I)Oc1c(OC)c(C(F)(F)F)c([N+](=O)[O-])c(N(C(C)C)C(C)C)c1(Cl)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(OC)c(C(F)(F)F)c([N+](=O)[O-])c(N(C(C)C)C(C)C)c(Cl)c1Oc2c(Cl)c(C(C)(C)C)c(S(=O)(=O)C)c(Cl)c2(Cl)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-219_1-C_2-c1ccc2c(c1)OCCO2_6-c1ccccc1C","level": "medium","name": "Pfitzner-Moffatt oxidation","reactants_smiles": ["O=S(C)C","O=C(O)C","OC(C)(c1ccc2c(c1)OCCO2)","c1ccccc1CN=C=Nc1ccccc1C"],"products_smiles": ["S(C)C","O=C(O)C","O=C(C)(c1ccc2c(c1)OCCO2)","c1ccccc1CNC(=O)Nc1ccccc1C"],"conditions": null,"mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(c1ccccc1C)=C(N(c1ccccc1C))O[S+](C)C","step_weight": 0,"rationale": "The carbodiimide oxygen attacks DMSO sulfur because sulfur is electrophilic and polarizable; this forms an activated sulfonium intermediate stabilized by resonance with the carbodiimide."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(c1ccccc1C)=C(N(c1ccccc1C))OS(C)(C)[O]Cc3ccccc3","step_weight": 0,"rationale": "The activated sulfonium intermediate reacts with the alcohol oxygen, whose lone pairs attack the electrophilic sulfur, favored by the good leaving ability of the carbodiimide-derived group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[NH](c1ccccc1C)C(=[NH+](c1ccccc1C))OS(C)(C)OC(C)(c1ccc2c(c1)OCCO2)","step_weight": 0,"rationale": "Proton transfer occurs to neutralize charges and generate a better leaving group; acid–base equilibrium is facilitated by the polar environment and the basic nitrogen atoms."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(c1ccc2c(c1)OCCO2)[O][S](=C)C","step_weight": 0,"rationale": "The alkoxide oxygen attacks the activated sulfur, forming a sulfonium alkoxysulfonium species; this step is driven by the high electrophilicity of the sulfur center."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)(c1ccc2c(c1)OCCO2)","step_weight": 0,"rationale": "Elimination occurs as the leaving group departs, driven by the formation of a stable carbonyl and the favorable expulsion of a neutral dimethyl sulfide."}],"description": "In the Pfitzner–Moffatt oxidation, DMSO is activated by a carbodiimide to form an electrophilic sulfonium species, which reacts with the alcohol. Subsequent proton transfers and elimination steps drive the conversion of the alcohol to a carbonyl compound under mild, non-aqueous conditions."}
